US06248777B1
A mixture of 0.20 g of 2,2-bisfluoromethyl-6-trifluoromethyl-2H-1-benzopyran-4-carboxylic acid, 0.12 g of N,N-carbonyl diimidazole and 3 ml of tetrahydrofuran was stirred at room temperature for one hour. The reaction mixture was combined with 0.06 g of 2-cyanoethylamine and further stirred at room temperature for 14 hours. The reaction mixture was concentrated under reduced pressure and the resulting residue was subjected to silica gel column chromatography (eluent; ethyl acetate:hexane=1:1) to give 0.20 g of N-(2-cyanoethyl)-2,2-bisfluoromethyl-6-trifluoromethyl-2H-1-benzopyran-4-carbamide; m.p. 135-136° C.

reactant | 2,2-bisfluoromethyl-6-trifluoromethyl-2H-1-benzopyran-4-carboxylic acid | 0.20 g | FCC1(OC2=C(C(=C1)C(=O)O)C=C(C=C2)C(F)(F)F)CF | C13H9F5O3
reactant | 2-cyanoethylamine | 0.06 g | C(#N)CCN | C3H6N2
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | N-(2-cyanoethyl)-2,2-bisfluoromethyl-6-trifluoromethyl-2H-1-benzopyran-4-carbamide | 0.20 g | C(#N)CCNC(=O)C1=CC(OC2=C1C=C(C=C2)C(F)(F)F)(CF)CF | C16H13F5N2O2
